US06159964
a) N-Acetyl-N'-(6-methyl-3-pyridazinyl)ethylenediamine
A mixture of 3-chloro-6-methylpyridazine (1.29 g, 10 mmol), N-(acetyl)ethylenediamine (638 mg, 6.25 mmol) and NaHCO3 (1.6 g) in dry DMF (10 mL) was heated at reflux under argon for 20 h. The mixture was filtered, the filtrate concentrated, and the residue was dissolved in CH2Cl2 and purified by flash chromatography (silica gel, step gradient, 0-8% CH3OH/CH2Cl2) to yield the title compound as a yellow solid (700 mg, 44%): MS (ES) m/e 195.0 [M+H]+.

reactant | 3-chloro-6-methylpyridazine | 10 mmol, 1.29 g | ClC=1N=NC(=CC1)C | C5H5ClN2
reactant | N-(acetyl)ethylenediamine | 6.25 mmol, 638 mg | C(C)(=O)NCCN | C4H10N2O
reactant | NaHCO3 | 1.6 g | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-Acetyl-N'-(6-methyl-3-pyridazinyl)ethylenediamine | 700 mg, 44% | C(C)(=O)NCCNC=1N=NC(=CC1)C | C9H14N4O
